US07282507B2
2-(5-Amino-6-trifluoromethyl-1H-indol-2-yl)-1-ethylsulfanyl-propan-2-ol
A solution of 1-ethylsulfanyl-2-(5-nitro-6-trifluoromethyl-1H-indol-2-yl)-propan-2-ol (0.35 g, 1.0 mmol) in ethanol. (20 mL) was prepared. To the solution was then added saturated ammonium chloride solution (20 mL). Indium was added (1.15 g, 10 mmol) and the reaction heated to reflux. After one-half hour the reaction was complete. The reaction mixture was filtered through Celite and the Celite washed with water and diethyl ether. The layers were separated and the aqueous layer extracted with diethyl ether. The organic layers were dried over magnesium sulfate, filtered, and evaporated to yield a residue. The residue was dissolved in dichloromethane and purified by column chromatography eluting with 1:1 diethyl ether/hexanes to yield the title compound as a solid.

reactant | 1-ethylsulfanyl-2-(5-nitro-6-trifluoromethyl-1H-indol-2-yl)-propan-2-ol | 1.0 mmol, 0.35 g | C(C)SCC(C)(O)C=1NC2=CC(=C(C=C2C1)[N+](=O)[O-])C(F)(F)F | C14H15F3N2O3S
reactant | ammonium chloride | 20 mL | [Cl-].[NH4+]
reactant | Indium | [In] | In
solvent | ethanol | C(C)O | C2H6O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(5-Amino-6-trifluoromethyl-1H-indol-2-yl)-1-ethylsulfanyl-propan-2-ol | NC=1C=C2C=C(NC2=CC1C(F)(F)F)C(CSCC)(C)O | C14H17F3N2OS
